US08686018B2
4-(1-aminocyclopropyl)benzoic acid (1.75 g, 0.00988 mol) was stirred in THF (20 mL) and Methanol (10 mL) over ice/water bath. 2.00 M of trimethylsilyldiazomethane in hexane (9.9 mL, 0.020 mol) was added and the mixture was stirred at room temperature for 12 hours. The reaction mixture was concentrated down to viscous oil which solidified upon standing to give a crystalline solid. Crude material was dried on high vacuum line for 12 hours to give methyl 4-(1-aminocyclopropyl)benzoate (1.65 g, 87%) as pale brown solid. Step 2:

reactant | 4-(1-aminocyclopropyl)benzoic acid | 0.00988 mol, 1.75 g | NC1(CC1)C1=CC=C(C(=O)O)C=C1 | C10H11NO2
reactant | Methanol | 10 mL | CO | CH4O
reactant | trimethylsilyldiazomethane | 2.00 M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 0.020 mol, 9.9 mL | CCCCCC | C6H14
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | methyl 4-(1-aminocyclopropyl)benzoate | 1.65 g, 87% | NC1(CC1)C1=CC=C(C(=O)OC)C=C1 | C11H13NO2
